US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 4-methyl-3-thiopheneboronic acid to give [6-methoxy-1-(4-methyl-thiophen-3-yl)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine. LC-MS m/e 337(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C13H11ClN4O
reactant | 4-methyl-3-thiopheneboronic acid | CC=1C(=CSC1)B(O)O | C5H7BO2S
product | [6-methoxy-1-(4-methyl-thiophen-3-yl)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine | COC=1C=C2C=C(N=C(C2=CC1)C1=CSC=C1C)NC1=NNC=C1 | C18H16N4OS
